US04281118
A mixture of 27.2 g (0.200 mole) of 2,5-dimethyl-1,4-benzoquinone, 31.1 g (0.200 mole) of 3-(dimethylamino)propanethiol hydrochloride and six drops of triethylamine in 300 ml of acetone was stirred at ambient temperature for 15 hours. The cream-colored, crude, solid product was collected on a filter and recrystallized from methanol to give the pure product, 2,5-bis((3-(dimethylamino)propyl)thio)-3,6-dimethyl-1,4-benzenediol dihydrochloride, as cream-colored platelets, mp 254.5° C.

reactant | 2,5-dimethyl-1,4-benzoquinone | 0.200 mole, 27.2 g | CC=1C(C=C(C(C1)=O)C)=O | C8H8O2
reactant | 3-(dimethylamino)propanethiol hydrochloride | 0.200 mole, 31.1 g | Cl.CN(CCCS)C
catalyst | triethylamine | six drops | C(C)N(CC)CC | C6H15N
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 2,5-bis((3-(dimethylamino)propyl)thio)-3,6-dimethyl-1,4-benzenediol dihydrochloride | Cl.Cl.CN(CCCSC1=C(C(=C(C(=C1C)O)SCCCN(C)C)C)O)C | InChI=1S/C18H32N2O2S2.2ClH/c1-13-15(21)18(24-12-8-10-20(5)6)14(2)16(22)17(13)23-11-7-9-19(3)4;;/h21-22H,7-12H2,1-6H3;2*1H
